US04845097
Synthesis of 5-chloro-4-{2-[4-(2-ethylaminoethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine (Compound No. 111)
1.9 g of 4-{2-[4-(2-bromoethyl)-2-methylphenoxy]-ethylamino}-5-chloro-6-methylpyrimidine and 5 ml of a 70% w/v aqueous solution of ethylamine were dissolved in 20 ml of ethanol, and the mixture was charged into an autoclave. The mixture was allowed to react at 120° to 130° C. for 10 hours. At the end of this time, ethanol was removed by distillation under reduced pressure and the oily product obtained was subjected to column chromatography (Wakogel C-200, eluted with ethanol), to afford 1.3 g of the title product as a pale yellow oily liquid, n24.1 =1.5610.

reactant | 4-{2-[4-(2-bromoethyl)-2-methylphenoxy]-ethylamino}-5-chloro-6-methylpyrimidine | 1.9 g | BrCCC1=CC(=C(OCCNC2=NC=NC(=C2Cl)C)C=C1)C | C16H19BrClN3O
reactant | ethylamine | C(C)N | C2H7N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-chloro-4-{2-[4-(2-ethylaminoethyl)-2-methylphenoxy]ethylamino}-6-methylpyrimidine | 1.3 g | ClC=1C(=NC=NC1C)NCCOC1=C(C=C(C=C1)CCNCC)C | C18H25ClN4O
